US07834063B2
B. N-[4-({3-[[4-Cyano-3-(trifluoromethyl)phenyl](cyclopropylmethyl)amino]propyl}oxy)phenyl]acetamide
Synthesized as described in Example 1C from 4-[(cyclopropylmethyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile and 4-acetamidophenol: MS (APCI) m/z 432 (M+1).

reactant | 4-[(cyclopropylmethyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCO | C15H17F3N2O
reactant | 4-acetamidophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
product | N-[4-({3-[[4-Cyano-3-(trifluoromethyl)phenyl](cyclopropylmethyl)amino]propyl}oxy)phenyl]acetamide | C(#N)C1=C(C=C(C=C1)N(CCCOC1=CC=C(C=C1)NC(C)=O)CC1CC1)C(F)(F)F | C23H24F3N3O2
